US04189433
15.1 g of 7-amino-4-hydroxy-1,2-benzisothiazole are slowly suspended in 30 ml of concentrated hydrochloric acid and diazotized with 15 ml of amyl nitrite at from 0° to 5° C. After slowly heating the mixture to 60° C., 18 g of zinc dust are added in 10 portions and the mixture is refluxed until the evolution of gas has ceased. When the mixture has cooled, it is filtered through Celite and the filtrate is partitioned between dilute sodium hydroxide solution and chloroform. After acidifying the aqueous phase and repeatedly extracting it with methylene chloride, the combined organic extracts are dried over magnesium sulfate and freed from the solvent. This gives from 2 to 3 g of 4-hydroxy-1,2-benzisothiazole, which is identical with the compound prepared as described in Example 9.

reactant | 7-amino-4-hydroxy-1,2-benzisothiazole | 15.1 g | NC1=CC=C(C=2C=NSC21)O | C7H6N2OS
reactant | amyl nitrite | 15 ml | N(=O)OCCCCC | C5H11NO2
solvent | hydrochloric acid | 30 ml | Cl | ClH
catalyst | zinc | 18 g | [Zn] | Zn
product | 4-hydroxy-1,2-benzisothiazole | 2 to 3 g | OC1=CC=CC2=C1C=NS2 | C7H5NOS
